US08283353B2
4′-({5-oxo-4-[trans-4-(2-oxoethoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a mixture of 4′-({4-[trans-4-(2-hydroxyethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (1.3 g), triethylamine (1.8 mL) and dimethyl sulfoxide (8 mL) was added dropwise a solution of sulfur trioxide-pyridine complex (1.2 g) in dimethyl sulfoxide (7 mL), and the mixture was stirred at room temperature for 1.5 hr. A solution of triethylamine (1.8 mL) and sulfur trioxide-pyridine complex (1.2 g) in dimethyl sulfoxide (5 mL) was added, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.31 g, 23%).

reactant | 4′-({4-[trans-4-(2-hydroxyethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 1.3 g | OCCO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C30H33N5O3
reactant | triethylamine | 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | dimethyl sulfoxide | 7 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 8 mL | CS(=O)C | C2H6OS
product | 4′-({5-oxo-4-[trans-4-(2-oxoethoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.31 g, 23% | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC=O | C30H31N5O3
